US04082535
2-Ethylamino-4-cyclopropylamino-5-bromo-6-chloropyrimidine
A solution of 6.4 g of bromine (0.04 mol) in 30 ml of methylene chloride is added dropwise over the course of one hour to a solution of 8.5 g (0.04 mol) of 2-ethylamino-4-cyclopropylamino-6-chloropyrimidine in 300 ml of methylene chloride, whilst cooling with ice. The solution is left to stand overnight at room temperature, 150 ml of water are then added and the mixture is brought to pH 9-10 with dilute ammonia solution. The organic phase is separated off, rinsed with water, dried over magnesium sulphate, filtered and evaporated. The evaporation residue (12 g), when recrystallised from methanol-water (1:1), gives 10.4 g of colourless crystals of melting point 100°-101°.

reactant | bromine | 0.04 mol, 6.4 g | BrBr | Br2
reactant | 2-ethylamino-4-cyclopropylamino-6-chloropyrimidine | 0.04 mol, 8.5 g | C(C)NC1=NC(=CC(=N1)NC1CC1)Cl | C9H13ClN4
reactant | water | 150 ml | O | H2O
reactant | ammonia | N | H3N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 2-Ethylamino-4-cyclopropylamino-5-bromo-6-chloropyrimidine | 10.4 g | C(C)NC1=NC(=C(C(=N1)NC1CC1)Br)Cl | C9H12BrClN4
